US08461167B2
Potential Synthesis of 3-(1H-imidazo[4,5-c]pyridin-7-ylethyl)-4-methyl-N-{4-[(4-methylpiperazin-1-yl)methyl]-3-(trifluoromethyl)phenyl}benzamide
The title compound can be synthesized from 7-ethynyl-1H-imidazo[4,5-c]pyridine and 3-iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl) benzamide in a manner similar to that described for Example 1. 7-ethynyl-1H-imidazo[4,5-c]pyridine is prepared from 7-bromo-1H-Imidazo[4,5-c]pyridine and ethynyltrimethylsilane according to the 2 steps procedure described in Example 1.

reactant | 7-ethynyl-1H-imidazo[4,5-c]pyridine | C(#C)C=1C2=C(C=NC1)N=CN2 | C8H5N3
reactant | 3-iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl) benzamide | IC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C21H23F3IN3O
product | 3-(1H-imidazo[4,5-c]pyridin-7-ylethyl)-4-methyl-N-{4-[(4-methylpiperazin-1-yl)methyl]-3-(trifluoromethyl)phenyl}benzamide | N1C=NC=2C=NC=C(C21)CCC=2C=C(C(=O)NC1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)C=CC2C | C29H31F3N6O
